US04207320
3-Cyclohexyl-10-fluoroimidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide.
A mixture of 85.0 g. of 6-cyclohexylquinoline, 16.4 g. of 6-fluoroquinaldine, 150 ml. of toluene and 51.6 g. of iodine is stirred for 30 minutes at 20-25° C., then heated at 95°-100° C. for 6 days. The mixture is cooled, diluted with 300 ml. of chlorobenzene and treated dropwise with hydrazine hydrate until the dark-colored mixture becomes light tan. The precipitate is collected, washed with chlorobenzene and suspended in 400 ml. of cold methanol. The resulting solid 3-cyclohexyl-10-fluoroimidazo[1,2-a:3,4-a']diquinolin-15-ium iodide is collected by filtration and crystallized from dimethylformamide/methanol; m.p. ca 225° C.-235° C.

reactant | 6-cyclohexylquinoline | C1(CCCCC1)C=1C=C2C=CC=NC2=CC1 | C15H17N
reactant | 6-fluoroquinaldine | FC=1C=C2C=CC(=NC2=CC1)C | C10H8FN
reactant | iodine | II | I2
reactant | hydrazine hydrate | O.NN
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-Cyclohexyl-10-fluoroimidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide | [I-].C1(CCCCC1)C1=CC=2C=CC3=[N+](C2C=C1)C=C1N3C=3C=CC(=CC3C=C1)F | InChI=1S/C25H22FN2.HI/c26-21-9-12-24-20(15-21)6-10-22-16-27-23-11-7-18(17-4-2-1-3-5-17)14-19(23)8-13-25(27)28(22)24;/h6-17H,1-5H2;1H/q+1;/p-1
